US07754744B2
Step 2: Piperidin-4-yl-[5-(1H-tetrazol-5-yl)-pyridin-2-yl]-amine dihydrochloride
A solution of 4-[5-(1H-tetrazol-5-yl)-pyridin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (0.80 g, 2.32 mmol) in 4 M HCl in dioxane (60 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 246.4 [M+H]+.

reactant | 4-[5-(1H-tetrazol-5-yl)-pyridin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 2.32 mmol, 0.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)C1=NN=NN1 | C16H23N7O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-[5-(1H-tetrazol-5-yl)-pyridin-2-yl]-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=C(C=C1)C1=NN=NN1 | InChI=1S/C11H15N7.2ClH/c1-2-10(14-9-3-5-12-6-4-9)13-7-8(1)11-15-17-18-16-11;;/h1-2,7,9,12H,3-6H2,(H,13,14)(H,15,16,17,18);2*1H
